US08110585B2
methyl 5-chloro-2H-indazole-4-carboxylate
To a solution of methyl 3-amino-6-chloro-2-methylbenzoate (25.0 g, 125 mmol) in water (139 mL) were added concentrated hydrochloric acid (26.1 mL, 313 mmol), ammonium tetrafluoroborate (17.1 g, 163 mmol) and sodium nitrite (8.64 g, 125 mmol) at 0° C., and the mixture was stirred for 30 min. The reaction solution was diluted with water, and washed with ethyl acetate. The water of the obtained aqueous layer was evaporated under reduced pressure, and the residue was dissolved in chloroform (287 mL). 18-Crown-6 (993 mg, 3.76 mmol) and potassium acetate (13.5 g, 138 mmol) were added. The reaction mixture was stirred at room temperature for 2 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure. The residue was purified by flash silica gel column chromatography (ethyl acetate/hexane=1/3) to give the title compound (4.10 g, yield 20%).

reactant | methyl 3-amino-6-chloro-2-methylbenzoate | 125 mmol, 25.0 g | NC=1C(=C(C(=O)OC)C(=CC1)Cl)C | C9H10ClNO2
reactant | hydrochloric acid | 313 mmol, 26.1 mL | Cl | ClH
reactant | ammonium tetrafluoroborate | 163 mmol, 17.1 g | F[B-](F)(F)F.[NH4+]
reactant | sodium nitrite | 125 mmol, 8.64 g | N(=O)[O-].[Na+]
reactant | 18-Crown-6 | 3.76 mmol, 993 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium acetate | 138 mmol, 13.5 g | C(C)(=O)[O-].[K+]
solvent | water | 139 mL | O | H2O
product | methyl 5-chloro-2H-indazole-4-carboxylate | 4.10 g, yield 20% | ClC1=C(C2=CNN=C2C=C1)C(=O)OC | C9H7ClN2O2
